US06207665B1
To a solution of 4-chlorobenzylisocyanate (0.59 g, 3.5 mmol) in anhydrous THF (15 mL) at 0° C. was added 1-(4-chlorobenzyl)piperazine (0.74 g, 3.5 mmol). The resultant mixture was stirred at ambient temperature. After 20 hours the mixture was concentrated of volatiles. The resulting solid was washed with ethyl acetate and dried in vacuo to afford 0.72 g of 1-(((4-chlorobenzyl)amino)carbonyl)-4-(4-chlorobenzyl)piperazine as a white solid; NMR (CDCl3) 7.4 (m, 4), 7.3 (m, 2), 7.2 (m, 2), 4.4-4.1 (m, 6), 3.6 (m, 4), 3.0 (m, 2) ppm.

reactant | 4-chlorobenzylisocyanate | 3.5 mmol, 0.59 g | ClC1=CC=C(CN=C=O)C=C1 | C8H6ClNO
reactant | 1-(4-chlorobenzyl)piperazine | 3.5 mmol, 0.74 g | ClC1=CC=C(CN2CCNCC2)C=C1 | C11H15ClN2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 1-(((4-chlorobenzyl)amino)carbonyl)-4-(4-chlorobenzyl)piperazine | 0.72 g | ClC1=CC=C(CNC(=O)N2CCN(CC2)CC2=CC=C(C=C2)Cl)C=C1 | C19H21Cl2N3O
